US07425568B2
2-[2-(4-Fluorophenyl)chroman-6-yloxy]-5-nitropyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from 160 mg of 2-(4-fluorophenyl)chroman-6-ol. The product was purified on preparative TLC-plate covered with silica gel using heptane-ethyl acetate (4:1) as an eluant. 1H NMR (400 MHz, d6-DMSO) δ: 9.04 (dd, 1H, J 2.9, 0.4 Hz), 8.60 (dd, 1H, J 9.1, 2.9 Hz), 7.51 (m, 2H), 7.24 (m, 1H), 7.20 (dd, 1H, J 9.1, 0.4 Hz), 7.01 (d, 1H, J 2.8 Hz), 6.96 (dd, 1H, J 8.7, 2.8 Hz), 6.91 (d, 1H, 8.7 Hz), 5.15 (dd, 1H, J 10.3, 2.2 Hz), 2.94 (m, 1H), 2.76 (m, 1H), 2.17 (m, 1H), 2.01 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(4-fluorophenyl)chroman-6-ol | 160 mg | FC1=CC=C(C=C1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
product | 2-[2-(4-Fluorophenyl)chroman-6-yloxy]-5-nitropyridine | FC1=CC=C(C=C1)C1OC2=CC=C(C=C2CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C20H15FN2O4
